US06586421B2
3-(3-(tert-butoxycarbonyl)-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)propanoic acid (0.105 g, 0.292 mmol), p-anisidine (0.0377 g, 0.306 mmol, 1.05 equiv.) and dimethylaminopyridine (0.0357 g, 0.292 mmol, 1.00 equiv.) were dissolved in THF at rt under N2. Diisopropylcarbodiimide (0.0503 mL, 0.0405 g, 0.321 mmol, 1.00 equiv.) was added, then the reaction mixture was stirred for 29 h. The reaction mixture was taken up in EtOAc and washed with 10% aq. citric acid (2×), saturated aq. NaHCO3 (2×) and brine (1×). The organic layer was dried over MgSO4, filtered, and concentrated. The crude product (0.1686 g) was chromatographed (SiO2 25 g, eluted with 9:1 toluene: acetone) to give tert-butyl 6-[3-(4-methoxyanilino)-3-oxopropyl]-1,4, 5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.113 g) in 84% yield. 1H NMR (300 MHz, CDCl3) δ 1.47, 2.68-2.76, 2.95-3.08, 3.56-3.70, 3.79, 4.53, 6.83, 7.12-7.54; MS (ESI+) for C27H33N3O4 m/z 464.0 (M+H)+.

reactant | 3-(3-(tert-butoxycarbonyl)-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)propanoic acid | 0.292 mmol, 0.105 g | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=CC=CC3C2CC1)CCC(=O)O | C20H26N2O4
reactant | p-anisidine | 0.306 mmol, 0.0377 g, 1.05 equiv. | COC1=CC=C(C=C1)N | C7H9NO
reactant | dimethylaminopyridine | 0.292 mmol, 0.0357 g, 1.00 equiv. | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Diisopropylcarbodiimide | 0.321 mmol, 0.0503 mL, 0.0405 g, 1.00 equiv. | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 6-[3-(4-methoxyanilino)-3-oxopropyl]-1,4, 5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.113 g, 84% yield | COC1=CC=C(NC(CCN2C3=C(C=4C=CC=CC24)CCN(CC3)C(=O)OC(C)(C)C)=O)C=C1 | C27H33N3O4
